***************************************************************** 
* SPICE2G6 MODEL OF THE NPN BIPOLAR TRANSISTOR BC337 (SOT-23)   * 
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  * 
*****************************************************************
.SUBCKT BC337C_IN 1 2 3
Q    6 5 7 BC337 1.000
LC   1 6 0.350N
L1   2 4 0.400N
LB   4 5 0.500N
L2   3 8 0.400N
LE   8 7 0.600N
CGBC 4 6 70.00F
CGBE 4 8 0.150P
CGCE 6 8 15.00F
.MODEL BC337 NPN (IS=0.180P NF=1.000 BF=449.302 VAF=95.000 IKF=0.820 
+ ISE=8.480F NE=1.566 NR=1.005 BR=16.919 VAR=13.000 IKR=0.663 
+ ISC=0.102P NC=1.764 
+ RB=0.750 IRB=0.100M RBM=0.375 
+ RE=0.170 RC=0.289 
+ CJE=63.400P VJE=0.850 MJE=0.372 FC=0.750 
+ CJC=16.600P VJC=0.780 MJC=0.433 XCJC=0.650 
+ TF=0.810N TR=2.600N PTF=1.000 
+ XTF=4.300 VTF=1.500 ITF=0.450 
+ XTB=1.500 EG=1.110 XTI=4.800 
+ KF=5.000F AF=1.000)
.ENDS 